Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was... (long pause up to one minute), I was traumatized...
I was hearing things. People talking about me."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M with h/o reported psychotic d/o vs. schizophrenia 
brought in by police secondary to reports of bizarre behavior 
(details unknown). Upon interview, patient is extremely quiet 
and appears both frightened and internally
preoccupied. He makes poor eye contact, with his eyes frequently 
darting around the room. There are also extended pauses up to 
one minute in length prior to his answering any question, with 
his frequently asking questions to be repeated. With difficulty, 
he endorses hearing voices "mentioning things about Facebook," 
and people talking about "people who were helping my memory." 
Goes on
to report that things then "turned ugly" and "got worse and 
worse and worse, and I started panicking." He is unable to 
elaborate further on any of this. Later is fixated on the idea 
of there having been a "drug bust" or something going on, asking 
repeatedly if he can "talk to someone." Reports that "someone is 
following me around," and admits to being very frightened. Says 
things have been "getting worse," and when told he will be 
coming into the hospital, he says quietly, ___, I think that's 
a good idea."

Spoke with patient's mother, ___: # ___, 
who reports patient has had a steady decline over the last ___ 
years, in particular over the last year. Reports patient "fell 
apart" during his freshman year at ___, after which patient 
lived at home with his parents for approximately ___ years. 
Reports patient has been hospitalized approximately 22x since 
that time, though he continues to refuse to take any 
anti-psychotic medications or to follow up with any doctors. 
Patient has only been taking Cymbalta and gabapentin (both 
long-standing medications), and living on his own for the last 
year though not
successfully. Reports AH and paranoia are newer symptoms just 
over the course of this past year, and confirms that patient has 
had a steadily downward course.

Per mother: she reports patient had recently endorsed 
significant fear and anxiety, also strong feelings of guilt that 
"he can't do more." Reports likely poor sleep and PO intake, 
with poor self-care. Reports episode of aggressive behavior last 
year when patient lashed out and broke her glasses, otherwise 
denies h/o assaultive behavior. States patient will get angry at 
times when
he is frightened or anxious. Denies any h/o SI/SIB/HI. 

 
Past Medical History:
PAST MEDICAL HISTORY: per mother: no acute or chronic issues
-PCP: Dr. ___ Dr. ___, ___ 
___,
___: # ___
.
PAST PSYCHIATRIC HISTORY: per mother
-___: unclear, concerns for schizophrenia
-Prior Hospitalizations: approximately 22x total, per BEST last
hospitalized at ___ in ___ as noted above, also 
at
___ in ___
-History of assaultive behaviors: assaultive towards mother x1
last  year (broke her glasses) as noted above, otherwise
non-violent
-History of suicide attempts or self-injurious behavior: denies 
-Prior med trials: unclear, per mother patient refuses all
anti-psychotic medications because of the way they make him 
feel,
patient reports taking Zyprexa and Seroquel in past, also
Cymbalta and Neurontin (both long-standing medications 
prescribed
by PCP)
-Therapist: none
-Psychiatrist: none, previously saw Dr. ___ @ ___, more
recently referred to Dr. ___ @ ___ by PCP but patient did
not show to appointment

 
Social History:
SUBSTANCE ABUSE HISTORY: per mother
-ETOH: rare, no hx of blackouts/withdrawal/seizures/detoxes
-Tobacco: non-smoker
-MJ/LSD/Ecstasy/Mushrooms: denies
-Cocaine/Crack/Amphetamines: denies
-Opiates: denies, no IVDU
-Benzos: prescribed Ativan in past, mother describes patient
being "a bit addicted" (details unclear)
. 
SOCIAL HISTORY: ___
Family History:
Paternal grandfather- ___, committed suicide
Mother- remote h/o anorexia
Denies h/o schizophrenia or substance abuse
 
Physical Exam:
98.3   120    112/74    20   100%RA
Gen: thin, appears older than stated age, awake, alert
HEENT: Dry mucous membranes, PERRL: 4 mm-->2 mm
CV: tachy, S1, S2, no m/r/g 
Pulm: CTAB no w/r/r 
Abd: non-distended, + bowel sounds, non-tender to palpation
Ext: WWP, no edema

Neuro: Alert and oriented x3. Able to name high and low 
frequency
objects, able to recall ___ objects at 0 minutes and ___ objects
at 5; ___ with one prompt. Language fluent, no paraphasic 
errors.
Knows 7 quarters in $1.75, able to name ___ backwards 
- CN II- XII intact
- Motor: normal bulk; ___ strength throughout
- Reflexes: 2+ bilaterally 
- Coordination: able to perform RAM and FNF without difficulty
- Gait: normal 

Dsicharge MS:
Mental Status Examination:
Appearance: He is wearing pajama bottoms, a green celtics 
shirt,and a black jacket.  His hair appears clean, his beard is 
somewhat unkempt.  
Behavior:  He makes intermittent eye contact.  He was pacing but 
could stop at times and talk.  He would come in and out of the 
room during interview.
Psychomotor: slightly slowed.
Speech: soft voice, normal rate, monotone; fluent with no
evidence of paraphasic errors. 
Mood: "i am fine"
Affect: increasingly reactive.
Thought process: linear/goal orientated. less thought blocking.
Ambivalent.
Thought content: No mention of SI or HI or auditory and visual
hallucinations.  
Judgment/insight: poor / fair 

 
Pertinent Results:
___ 12:05AM BLOOD WBC-9.3 RBC-5.27 Hgb-16.2 Hct-44.0 MCV-84 
MCH-30.8 MCHC-36.9* RDW-11.8 Plt ___
___ 12:05AM BLOOD Neuts-80.6* Lymphs-15.1* Monos-2.7 
Eos-0.7 Baso-0.9
___ 12:05AM BLOOD Plt ___
___ 12:05AM BLOOD Glucose-109* UreaN-12 Creat-1.1 Na-141 
K-3.8 Cl-102 HCO3-29 AnGap-14
___ 12:05AM BLOOD ALT-21 AST-21 LD(LDH)-169 AlkPhos-54 
TotBili-0.7
___ 12:05AM BLOOD VitB12-___
___ 12:05AM BLOOD TSH-3.0
___ 12:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1) Psychiatric
The patient was admitted to ___ Inpatient Psychiatry for 
stabilization, psychiatric evaluation, and psychopharmacologic 
intervention. The patient arrived to the unit in a highly 
paranoid state and became intermittently aggressive and erratic 
in his behavior, frequently screaming for help, believing that 
people were trying to shoot at him, and feeling suspicious of 
those around him. He frequently attempted to call ___ while on 
the unit because of fears of self-harm. However, the patient 
initially refused any antipsychotic medications because he did 
not like the way he perceived them to make him feel in the past. 
He received *five* chemical restraints over the course of his 
admission in order to maintain his own safety and the safety of 
others. These chemical restraints involved Haldol 5 mg, Ativan 2 
mg, and Benadryl 50 mg administered by IM, though they had been 
offered PO first. Additionally, the patient was encouraged to 
take Saphris (asenapine) 5 mg bid which he took intermittently 
prior to his court hearing on ___.  He was also transiently 
given PRNs of asenapine 5 mg q6hr prn anxiety, and lorazepam 1 
mg q4hr prn anxiety.  He was noted to be intermittently 
paranoid, sometimes hiding behind chairs or stating that someone 
was after him with a gun.  He was also sometimes bizarre. 
However, he did not require a chemical restraint following ___.
.
Mr. ___ received a shot of long acting paliperidone 234 mg IM 
on ___, 156 mg IM on ___, and 156 mg IM on ___ to which he 
had a good respone. He became more interactive with other 
people, less paranoid and frightened, and was able to 
participate in activities such as playing  chess.  He became 
more tolerant of interviews.  Ultimately, he was able to play 
the piano by both memory and sight reading.
.
The patient reported feeling of restlessness after receiving the 
second shot of paliperidone. He consistently paced the halls.  
For the symptom, a trial of propranolol was initiated with no 
effect - and was therefore discontinued.  Ativan also provided 
transient relief of the pacing and related anxiety.  As anxiety 
and irritability worsened with attempts to discontinue the 
gabapentin, the agent was continued at 300 mg po tid.
.
He also voiced the belief that the anti-psychotics were causing 
a constellation of symptoms including 'dementia' and 
extrapyramidal symptoms.  He would pace the halls with short 
strides, arms straight at his sides, and  head down. Of note, if 
distracted, the stride length began to normalize and arm swing 
would appear. He could run.  There was no evidence of rigidity 
on direct examination.  For this reason, at least the style of 
pacing was thought to represent a physical manifestation of a 
delusion regarding the effects of antipsychotics.  
.
For difficulty sleeping, Mr. ___ used ativan and benadryl on 
an as-needed basis.
.
Ambivalence and negative symptoms persisted despite great 
improvements in positive symptoms.  Accordingly, he received 
active guidance on how to structure his day and a list of 
'assignments.'  Although he did generally complete tasks, he did 
not generate his own ideas.
.
He had his last dose of long acting paliperidone 234 mg IM on 
___

2) Medical: 
The patient had no acute medical issues during his hospital 
stay.  
.
3) Psychosocial:
In the course of the hospitalization, Mr. ___ became 
increasingly social.  Throughout the entire month of ___, there 
was no evidence of threatening or aggressive behavior.  He began 
to attend group activities.  He played the piano with members of 
the care team.  He met with his parents who visited regularly 
and often played chess with his father.
.
4) Legal: ___
5) Updated Risk Assessment: 
The patient has some modifiable risk factors for self-harm or 
harm to others which were optimized and reduced to the greatest 
degree possible while on the inpatient unit. He was provided 
psychopharmacologic intervention for his psychosis along with 
groups and 1:1 therapy which should increase his ability to cope 
going forward. However, the patient has certain non-modifiable 
risk factors such as a history of previous aggression, chronic 
mental illness, social isolation, and unemployment which are not 
able to be adjusted. As a result, though he has a chronically 
elevated level of risk, discharge to follow up as an outpatient 
is the least restrictive setting for his ongoing care. 

Dispo: ___
 
Medications on Admission:
Patient reports recent poor compliance
-Cymbalta 60 mg daily
-Neurontin 300 mg tid

 
Discharge Medications:
1. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q8H (every 8 hours) as needed for constipation.
Disp:*300 ML(s)* Refills:*0*
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for fever, pain, headache.
Disp:*60 Tablet(s)* Refills:*0*
3. alum-mag hydroxide-simeth 200-200-20 mg/5 mL Suspension Sig: 
Thirty (30) ML PO Q4H (every 4 hours) as needed for upset 
stomach.
Disp:*300 ML(s)* Refills:*0*
4. diphenhydramine HCl 25 mg Capsule Sig: Two (2) Capsule PO HS 
(at bedtime) as needed for insomnia.
Disp:*60 Capsule(s)* Refills:*0*
5. benztropine 1 mg Tablet Sig: One (1) Tablet PO Q4H PRN () as 
needed for EPS.
Disp:*60 Tablet(s)* Refills:*0*
6. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).
Disp:*30 Tablet(s)* Refills:*0*
7. gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*0*
8. lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).
Disp:*30 Tablet(s)* Refills:*0*
9. paliperidone palmitate 234 mg/1.5 mL Syringe Sig: One (1)  
Intramuscular once a month: last dose was on ___.
Disp:*1 syringe* Refills:*0*
10. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.
Disp:*90 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia, paranoid type

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status Examination:
Appearance: He is wearing pajama bottoms, a green celtics 
shirt,and a black jacket.  His hair appears clean, his beard is 
somewhat unkempt.  
Behavior:  He makes intermittent eye contact.  He was pacing but 
could stop at times and talk.  He would come in and out of the 
room during interview.
Psychomotor: slightly slowed.
Speech: soft voice, normal rate, monotone; fluent with no
evidence of paraphasic errors. 
Mood: 'i am fine'
Affect: increasingly reactive.
Thought process: linear/goal orientated. less thought blocking.
Ambivalent.
Thought content: No mention of SI or HI or auditory and visual
hallucinations.  
Judgment/insight: poor / fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___